US06150521
At 80° C., 4.14 g (0.02 mol) of (5,6-dihydro-1,4,2-dioxazin-3-yl)-(2-hydroxy-phenyl)-methanone (III-1) in 20 ml of dimethylformamide are stirred with 2.1 g (0.03 mol) of hydroxylamine hydrochloride for 2 hours. The reaction mixture is poured into water and the resulting mixture is extracted with ethyl acetate, and the organic phase is dried over sodium sulphate and concentrated under reduced pressure. 4.7 g of crude product consisting of 15% E isomer and 57.5% Z isomer (HPLC) are obtained. The crude product is chromatographed over silica gel using a mixture of diethyl ether and petroleum ether (1:1). 2.7 g (60.8% of theory) of (5,6-dihydro-1,4,2-dioxazin-3-yl)-(2-hydroxy-phenyl)-methanone oxime (V-1) are obtained (content according to HPLC analysis: 93.4%).

reactant | (5,6-dihydro-1,4,2-dioxazin-3-yl)-(2-hydroxy-phenyl)-methanone | 0.02 mol, 4.14 g | O1N=C(OCC1)C(=O)C1=C(C=CC=C1)O | C10H9NO4
reactant | hydroxylamine hydrochloride | 0.03 mol, 2.1 g | Cl.NO
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (5,6-dihydro-1,4,2-dioxazin-3-yl)-(2-hydroxy-phenyl)-methanone oxime | 2.7 g, 60.8% | O1N=C(OCC1)C(=NO)C1=C(C=CC=C1)O | C10H10N2O4
